US07247645B2
2) Synthesis of 8-benzyloxy-1,1-diphenyloctanol:
Ethyl 8-benzyloxyoctanoate was dissolved in 15 ml of THF. 15 ml (30 mmol) of phenylmagnesium bromide (2 M THF solution) was added dropwise to the obtained solution in ice bath. After stirring at room temperature for 4 hours, a saturated aqueous ammonium chloride solution and then 1 N hydrochloric acid were added to the reaction mixture to terminate the reaction. After the extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and then concentrated under educed pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=9/1) to obtain the title compound.

reactant | Ethyl 8-benzyloxyoctanoate | C(C1=CC=CC=C1)OCCCCCCCC(=O)OCC | C17H26O3
reactant | phenylmagnesium bromide | 30 mmol, 2 M, 15 ml | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 8-benzyloxy-1,1-diphenyloctanol | C(C1=CC=CC=C1)OCCCCCCCC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H32O2
